US06831175B2
7-Bromo-2-methyl-quinazoline
The 4-Bromo-2-fluoro-benzaldehyde (1 g, 4.9 mmol), acetamidine and DMA were mixed and heated to 140° C. for 5 hours. The mixture was cooled to room temperature and dried under vacuum. The mixture was purified by flash column afforded 47 mg product in 4% yield. MS (ESI) m/e 223 (M+1)+.

reactant | 4-Bromo-2-fluoro-benzaldehyde | 4.9 mmol, 1 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | acetamidine | C(C)(=N)N | C2H6N2
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 7-Bromo-2-methyl-quinazoline | 47 mg, 4% yield | BrC1=CC=C2C=NC(=NC2=C1)C | C9H7BrN2
